US07816391B2
Ethyl-2-(cyclopropanecarbonyl)-3-dimethylamino-prop-2-enoate (Intermediate#32) (316 mg, 1.5 mmol) was dissolved in ethanol (5 mL). 4-bromophenylhydrazine hydrochloride (335 mg, 1.5 mmol) and DIPEA (264 μL, 1.5 mmol) were added and the mixture was heated to reflux for 2 h. The reaction mixture was cooled to ambient and evaporated under reduced pressure. The residue was dissolved in DCM (10 mL) washed with water and poured through a phase separating tube. The product was recovered from the filtrate by flash column chromatography (SiO2, elution gradient 0-25% EtOAc in isohexane). Pure fractions were combined and evaporated to give ethyl 1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylate as an oil that crystallised on standing. (343 mg, 87%)

reactant | Ethyl-2-(cyclopropanecarbonyl)-3-dimethylamino-prop-2-enoate | 1.5 mmol, 316 mg | C(C)OC(C(=CN(C)C)C(=O)C1CC1)=O | C11H17NO3
reactant | 4-bromophenylhydrazine hydrochloride | 1.5 mmol, 335 mg | Cl.BrC1=CC=C(C=C1)NN
reactant | DIPEA | 1.5 mmol, 264 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl 1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylate | BrC1=CC=C(C=C1)N1N=CC(=C1C1CC1)C(=O)OCC | C15H15BrN2O2
